* C:\daniel\tampere_summer\ltspice_design\differential_stage\Draft2.asc
M1 N003 N003 N001 Vdd pmos45bulk l=200n w=4700n as=1.32p ad=1.32p ps=9.96u pd=9.96u
I1 N003 0 50µ
M2 N004 N003 N002 Vdd pmos45bulk l=200n w=4700n as=1.32p ad=1.32p ps=9.96u pd=9.96u
V1 Vdd 0 1
M3 N001 N001 Vdd Vdd pmos45bulk l=200n w=4700n as=1.32p ad=1.32p ps=9.96u pd=9.96u
M4 N002 N001 Vdd Vdd pmos45bulk l=200n w=4700n as=1.32p ad=1.32p ps=9.96u pd=9.96u
M5 Vout Vin+ N004 Vdd pmos45bulk l=200n w=10u as=1.37p ad=1.37p ps=10.36u pd=10.36u
M6 N005 Vin- N004 Vdd pmos45bulk l=200n w=10u as=1.37p ad=1.37p ps=10.36u pd=10.36u
M7 Vout N005 0 0 nmos45bulk l=200n w=1500n as=145.60f ad=145.60f ps=1.60u pd=1.60u
M8 N005 N005 0 0 nmos45bulk l=200n w=1500n as=145.60f ad=145.60f ps=1.60u pd=1.60u
V2 Vin+ 0 SINE(0.1 40u 1meg) AC 10u 0
V3 Vin- 0 SINE(0.1 40u 1meg 0 0 180) AC 10u 180
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Asus\OneDrive - TUNI.fi\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib ../libs/45nm_bulk.pm
.tran 5u
.step param LEN 90n 200n 30n
.backanno
.end
